US08426632B2
To 148 g (1.00 mol) of a 50% aqueous glyoxylic acid solution was added 355.97 g (0.5 mol) of a 20% aqueous magnesium acetate solution. The resulting solution was concentrated by means of an evaporator and further dried at 50° C. for 1 hour to obtain 83.47 g (0.49 mol, yield: 98.0%) of magnesium glyoxylate.

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | magnesium acetate | C(C)(=O)[O-].[Mg+2].C(C)(=O)[O-]
product | magnesium glyoxylate | 0.49 mol, 83.47 g, yield: 98.0% | C(C=O)(=O)[O-].[Mg+2].C(C=O)(=O)[O-] | InChI=1S/2C2H2O3.Mg/c2*3-1-2(4)5;/h2*1H,(H,4,5);/q;;+2/p-2
